US08236823B2
To 3-(3-(1-benzyl-1H-pyrazol-4-yl)pyridin-2-yloxy)-N-(3-isopropylphenyl)-4-methylbenzamide (65 mg, 0.13 mmol) in EtOAc (4 mL) and MeOH (4 mL) was added Pd/C (10%, 300 mg). The reaction was purged with hydrogen gas and then stirred at rt under a balloon of hydrogen for 16 hours. The reaction was filtered through Celite with EtOAc, concentrated, and purified by Gilson reverse-phase HPLC (0.1% TFA in water/acetonitrile). After a basic workup involving CH2Cl2 and saturated sodium bicarbonate, 3-(3-(1H-pyrazol-4-yl)pyridin-2-yloxy)-N-(3-isopropylphenyl)-4-methylbenzamide was obtained as a white solid. MS m/z=413 [M+1]+. Calc'd for C25H24N4O2: 412.50.

reactant | 3-(3-(1-benzyl-1H-pyrazol-4-yl)pyridin-2-yloxy)-N-(3-isopropylphenyl)-4-methylbenzamide | 0.13 mmol, 65 mg | C(C1=CC=CC=C1)N1N=CC(=C1)C=1C(=NC=CC1)OC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C32H30N4O2
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 4 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 3-(3-(1H-pyrazol-4-yl)pyridin-2-yloxy)-N-(3-isopropylphenyl)-4-methylbenzamide | N1N=CC(=C1)C=1C(=NC=CC1)OC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C25H24N4O2
